US07105707B2
The procedure was identical to Example 2, with the exception that 4-cyanopyridine (0.208 g; 2.00 mmol) was used as a substrate instead of benzonitrile. GC analysis of the organic phase of the hydrolyzed reaction sample after 20 h at 65° C. showed the presence of 0.88 mmol (44% yield) of 4-(phenylethynyl)pyridine, and no remaining 4-cyanopyridine in the reaction mixture.

reactant | 4-cyanopyridine | 2.00 mmol, 0.208 g | C(#N)C1=CC=NC=C1 | C6H4N2
reactant | benzonitrile | C(C1=CC=CC=C1)#N | C7H5N
product | 4-(phenylethynyl)pyridine | 0.88 mmol, 44% yield | C1(=CC=CC=C1)C#CC1=CC=NC=C1 | C13H9N
